US08242133B2
A mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.20 g of ethyl mercaptan sodium salt and 2 ml of DMF was stirred at room temperature for one hour. Water was added to the reaction mixture, and was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.28 g of 2-(3-ethylthio pyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 41”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | ethyl mercaptan sodium salt | 0.20 g | [Na].C(C)S
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-(3-ethylthio pyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | C(C)SC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C15H11F3N2OS
